US08304446B2
5-Chloro-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide
A solution of 1,1-dimethylethyl 3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1 H-indazole-1-carboxylate (for a preparation see Intermediate 6) (155 mg, 0.35 mmol) was dissolved in DCM (0.2 mL) and TFA (0.4 mL) was added. The solution was stood at room temperature for 30 min, and then blown down to dryness under a stream of nitrogen in a Radley's blow down unit to give the title compound (200 mg). LCMS (System D) RT=1.02 min, ES+ve m/z 344 (M+H)+.

reactant | 1,1-dimethylethyl 3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1 H-indazole-1-carboxylate | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)C(=O)OC(C)(C)C | C17H18ClN3O5S2
reactant | TFA | 0.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-[4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | 200 mg | ClC1=CC=C(S1)S(=O)(=O)NC1=NNC2=CC=CC(=C12)OC | C12H10ClN3O3S2
